US07678787B2
Step A. Methyl 2,2′-dimethyl-1,1′-biphenyl-4-carboxylate
A mixture of methyl 4-bromo-3-methylbenzoate (25.0 g, 110 mmol), o-tolylboronic acid (16.5 g, 120 mmol) and potassium carbonate (50 g, 360 mmol) in dioxane:water (300 mL: 200 mL) was purged with nitrogen for 1 hour. [1,1′bis(Diphenylphosphino)ferrocene]dichloropalladium[II] (4.5 g, 5.5 mmol) was added and the reaction mixture was heated to 100° C. with vigorous stirring for 3.5 hours. The cooled reaction mixture was filtered through Celite and the cake washed with ethyl acetate (500 mL). The organic phase was separated, washed with 1 M sodium hydroxide (500 mL) and brine (500 mL), dried over anhydrous potassium carbonate and concentrated in vacuo to give the crude product as a dark oil (28.6 g). Purification by flash chromatography using a solvent gradient of 2% ethyl acetate in hexane afforded the title compound (24.7 g, 93%) as a pale yellow oil.

reactant | methyl 4-bromo-3-methylbenzoate | 110 mmol, 25.0 g | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | o-tolylboronic acid | 120 mmol, 16.5 g | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
reactant | potassium carbonate | 360 mmol, 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Methyl 2,2′-dimethyl-1,1′-biphenyl-4-carboxylate | 24.7 g, 93% | CC1=C(C=CC(=C1)C(=O)OC)C1=C(C=CC=C1)C | C16H16O2
